US04124590
1-Acetyl-3-benzyloxypiperidine
1-Acetyl-3-hydroxypiperidine (0.10 mole) is dissolved in 50 ml. of dimethylformamide. 0.12 Mole of sodium hydride (56%) is added over a 10 minute period, and the reaction mixture is stirred for 30 minutes. Benzyl chloride (0.12 mole) is added dropwise over a 30 minute period, and the reaction mixture is then heated on a steam bath for 30 minutes. Water (3 volumes) is added, the solution extracted with ether, the ether extract washed with water and the ether removed by evaporation. A yellow oil is obtained on distillation at 136°-140° C. (0.01 mm Hg.).

reactant | 1-Acetyl-3-hydroxypiperidine | 0.10 mole | C(C)(=O)N1CC(CCC1)O | C7H13NO2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.12 Mole | [H-].[Na+]
reactant | Benzyl chloride | 0.12 mole | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | Water | O | H2O
product | 1-Acetyl-3-benzyloxypiperidine | C(C)(=O)N1CC(CCC1)OCC1=CC=CC=C1 | C14H19NO2
